US06498165B1
Step B: 2-[(S)-1-Phenylethylamino]-4-chloro-6-methylpyrimidine
To a solution of 2-[(S)-1-phenylethylamino]-4-hydroxy-6-methylpyrimidine (100 mg, 0.436 mmol, 1 eq) in chloroform (2 mL) was added (chloromethylene)dimethylammonium chloride (Vilsmeier reagent) (55.9 mg, 0.436 mmol, 1 eq). After 1 hour the solvent was removed under reduced pressure. The product was purified by silica gel chromatography (eluted with 3:1 hexanes/acetone) to give 19.8 mg of the title compound. Mass spectrum (NH3/CI): 248.1 (M+1).

reactant | 2-[(S)-1-phenylethylamino]-4-hydroxy-6-methylpyrimidine | 0.436 mmol, 100 mg, 1 eq | C1(=CC=CC=C1)[C@H](C)NC1=NC(=CC(=N1)O)C | C13H15N3O
reactant | (chloromethylene)dimethylammonium chloride | 0.436 mmol, 55.9 mg, 1 eq | [Cl-].ClC=[N+](C)C
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-[(S)-1-Phenylethylamino]-4-chloro-6-methylpyrimidine | 19.8 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC(=CC(=N1)Cl)C | C13H14ClN3
